US05256784
4-Nitrophenyl isocyanate (45 grams, 0.27 mol) was added dropwise to a solution of ethanolamine (16.7 grams, 0.27 mol) in THF (200 mL) with stirring. After the addition was complete, stirring was continued for three hours. The precipitate was filtered off and washed repeatedly with THF. N-(2-hydroxypropyl)-N'-(4-nitrophenyl) urea was prepared similarly using amino-2-propanol. This product was used in cases where a secondary alcohol was required at the acceptor end of the dye.

reactant | 4-Nitrophenyl isocyanate | 0.27 mol, 45 grams | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
reactant | ethanolamine | 0.27 mol, 16.7 grams | C(O)CN | C2H7NO
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | N-(2-hydroxypropyl)-N'-(4-nitrophenyl) urea | OC(CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])C | C10H13N3O4
